US05856518
7-t-Butoxycarbonylamino-4-oxo-5-azaspiro[2.4]heptane
An autoclave was charged with 112 mg of 1-(1-t-butoxycarbonylamino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane, 0.5 ml of Raney nickel and 3.0 ml of ammonia-saturated ethanol, and the contents were stirred at 80° C. for 2 hours in an atmosphere of hydrogen under a pressure of 65 kg/cm2. After completion of the reaction, the catalyst was removed by filtration and the resulting filtrate was concentrated under a reduced pressure to obtain 86 mg (91%) of the title compound in the form of colorless crystals. The thus obtained compound was recrystallized from ethyl acetate and diethyl ether, and used as a sample for analyses.

reactant | 1-(1-t-butoxycarbonylamino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane | 112 mg | C(C)(C)(C)OC(=O)NC(C#N)C1(CC1)C(=O)OCC | C13H20N2O4
reactant | ammonia | 3.0 ml | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.5 ml | [Ni] | Ni
product | 7-t-Butoxycarbonylamino-4-oxo-5-azaspiro[2.4]heptane | 86 mg, 91% | C(C)(C)(C)OC(=O)NC1CNC(C12CC2)=O | C11H18N2O3
